US07465731B2
A mixture of (2E)-3-(5-chloro-6-{[(3R)-1-({trans-4-[(dimethylamino)methyl]cyclohexyl}carbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (530 mg) and 2N HCl/Ethanol (5 ml) was stirred for 3 hrs. EtOAc (10 ml) and IPE (50 ml) was added and stirred. After 1 hour, precipitate was filtered and dried to give 462 mg (89%) of (2E)-3-(5-chloro-6-{[(3R)-1-({trans-4-[(dimethylamino)methyl]cyclohexyl}carbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-hydroxyacrylamide dihydrochloride.

reactant | (2E)-3-(5-chloro-6-{[(3R)-1-({trans-4-[(dimethylamino)methyl]cyclohexyl}carbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 530 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN(C)C)/C=C/C(=O)NOC1OCCCC1 | C27H40ClN5O4
reactant | HCl Ethanol | 2N, 5 ml | Cl.C(C)O
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | (2E)-3-(5-chloro-6-{[(3R)-1-({trans-4-[(dimethylamino)methyl]cyclohexyl}carbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-hydroxyacrylamide dihydrochloride | 462 mg, 89% | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN(C)C)/C=C/C(=O)NO | InChI=1S/C22H32ClN5O3.2ClH/c1-27(2)13-15-3-6-17(7-4-15)22(30)28-10-9-18(14-28)25-21-19(23)11-16(12-24-21)5-8-20(29)26-31;;/h5,8,11-12,15,17-18,31H,3-4,6-7,9-10,13-14H2,1-2H3,(H,24,25)(H,26,29);2*1H/b8-5+;;/t15-,17-,18-;;/m1../s1
